US04644010
Into an ice-chilled solution of 30 g of pyrrole and 30 g of malononitrile in 800 ml of dry ether is passed by HCl for 20 minutes. After standing several hours the suspension is filtered to give 65 g of orange-brown, water-soluble solid. The solution of 50 g of this intermediate (the enamine nitrile hydrochloride) in 600 ml of water is covered with 400 ml of ethyl acetate and stirred for 21/2 hours at room temperature. The organic layer is separated, dried (MgSO4) and evaporated to give crystals, m.p. 77°-9°; additional product is obtained by warming the aqueous layer on steam cone for 1/2 hour and extracting with ethyl acetate. Recrystallization from water gives 2-pyrroloylacetonitrile, m.p. 79°-81°.

reactant | pyrrole | 30 g | N1C=CC=C1 | C4H5N
reactant | malononitrile | 30 g | C(CC#N)#N | C3H2N2
reactant | HCl | Cl | ClH
reactant | ethyl acetate | 400 ml | C(C)(=O)OCC | C4H8O2
solvent | ether | 800 ml | CCOCC | C4H10O
solvent | water | 600 ml | O | H2O
product | 2-pyrroloylacetonitrile | N1C(=CC=C1)C(=O)CC#N | C7H6N2O
